US08193228B2
4-iodo-2-methyl-1-trityl-1H-imidazole
Triethylamine (13.4 mL, 96.2 mmol) followed by trityl chloride (20.1 g, 72.1 mmol) were added to an ambient temperature solution of 4-iodo-2-methyl-1H-imidazole (ca. 10 g, 48.1 mmol) in methylene chloride (90 mL). After stirring at ambient temperature for 2 days, the reaction mixture was diluted with methylene chloride and washed with water and brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-15% acetone/methylene chloride afforded the title compound.

reactant | Triethylamine | 96.2 mmol, 13.4 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 72.1 mmol, 20.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 4-iodo-2-methyl-1H-imidazole | 48.1 mmol, ca. 10 g | IC=1N=C(NC1)C | C4H5IN2
solvent | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
product | 4-iodo-2-methyl-1-trityl-1H-imidazole | IC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H19IN2
